US06949579B2
845 mg of zinc powder are added to 0.93 g of N-[6-chloro-5-(4-nitrophenyl)-1H-indazol-3-yl]butanamide, described previously, in 50 cm3 of acetic acid, followed, 1 hour later, by addition of a further 845 mg of zinc; the reaction medium is filtered through a sinter funnel packed with Celite and the filtrate is concentrated to dryness under reduced pressure (2 kPa; 50° C.). The residue is taken up in 100 cm3 of ethyl acetate and 75 cm3 of water and the organic phase is separated out after settling of the phases has taken place, washed successively with 75 cm3 of water and with 50 cm3 of saturated sodium hydrogen carbonate solution, dried over magnesium sulphate, filtered and concentrated to dryness to give 480 mg of crude product, which is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 4.5 cm), eluting with a cyclohexane/ethyl acetate mixture (60/40 by volume). The fractions containing the expected product are combined and the solid is triturated in 10 cm3 of diethyl ether, filtered off, washed with 2×5 cm3 of diethyl ether and then dried (90 Pa; 45° C.) to give 110 mg of N-[5-(4-aminophenyl)-6-chloro-1H-indazol-3-yl]butanamide in the form of an ochre-coloured solid.

reactant | N-[6-chloro-5-(4-nitrophenyl)-1H-indazol-3-yl]butanamide | 0.93 g | ClC1=C(C=C2C(=NNC2=C1)NC(CCC)=O)C1=CC=C(C=C1)[N+](=O)[O-] | C17H15ClN4O3
solvent | acetic acid | 50 cm3 | C(C)(=O)O | C2H4O2
catalyst | zinc | 845 mg | [Zn] | Zn
catalyst | zinc | 845 mg | [Zn] | Zn
product | N-[5-(4-aminophenyl)-6-chloro-1H-indazol-3-yl]butanamide | 110 mg | NC1=CC=C(C=C1)C=1C=C2C(=NNC2=CC1Cl)NC(CCC)=O | C17H17ClN4O
